Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
Stitches placed on face: ___
To be removed ___

 
History of Present Illness:
___ hx of anxiety, depression, EtOH dependence, 27 pack year 
smoking hx and recent dx of Stage IIIa RUL NSCLC ___ ___ 
per plastic surgery notes, presenting with syncopal episode in 
setting of EtOH relapse. Pt reports longest period of sobriety 
___ years, until he started drinking again ___ year ago. He was in 
detox twice in the past year, most recently ___ at 
___.
At ___, he received Prozac and ativan, which he was 
supposed to taper off. When he left detox, he had neither Prozac 
nor benzos. He started drinking again on ___ and ___, 
consuming 1 liter of vodka. His last drink was ___, 
midnight (end of the day). He notes that, within 2 hours, he 
started withdrawing, with symptoms including "racing" sensation, 
inability to sit still, dry mouth. He went to ___ to pick 
up prescriptions on ___ morning at about 10 am, to fill rxs 
for Prozac and Xanax. When he walked into ___, he 
experienced increased anxiety ___ to being in public. He paced 
while waiting in the pharmacy line, theb began to feel 
lightheaded. The next thing he recalls is being loaded onto a 
stretcher. Denies tongue biting, incontinence. Has never had 
episodes like this before. Was told he was shaking, recalls 
being somewhat confused upon waking. Per ___ 
notes, EMS relayed that several people in line had seen some 
"small shaking movements." In the past, he has gotten the shakes 
when detoxing, but denies hx of DTs, alcoholic hallucinosis, or 
seizures. 

At ___, initial VS were 97.5, 126/89, 130, 19, 99% 
RA. 
CT of facial bones revealed nasal bone fractures, nasal septum 
fractures and an air-fluid level in the frontal sinus s/o 
frontal sinus fracture. He had a 3cm laceration over his right 
eyebrow that was closed with interrupted prolene and then he was 
transferred to ___ ___ for further management of "possible 
frontal sinus fracture."
Received lorazepam 1 mg IV x1, and 1L D5LR
Laceration sutured. Attempted to transfer to ___ for 
neurosurgical care, but apparently unable. Transferred to ___ 
for nsg evaluation.

In the ___ ___:
VS 97.7, 98, 124/84, 16, 100% RA
Prior to transfer:
98.3, 80, 126/77, 18, 100%RA
Labs notable for:
HCO3 19->21 on recheck
Hb 12.5
UA hazy, neg leuk est and nitr, trace protein, +glucose, 
+ketones

Evaluated by plastic surgery - recommend admission for syncope 
w/u, no current indication for operative management

Received lorazepam 2 mg PO x1 at 6:45 pm

On arrival to the floor, he endorses anxiety. He denies drug use 
other than EtOH, and denies SI/HI and AV hallucinations.

 
Past Medical History:
Depression
Anxiety
COPD
Lung cancer - scheduled to begin XRT at ___ on ___ per pt 
-discovered incidentally in ___ prior to starting detox 
program. Unable to access records in Partners system
EtOH dependence as per HPI
 
Social History:
___
Family History:
No lung cancer. No alcoholism. 
 
Physical Exam:
Admission Exam
VS: 98.5, 121/86, 98, 19, 100% RA
Gen: Pleasant male, lying in bed, ecchymoses over frontal and 
nasal bones. Anxious appearing
HEENT: PERRL, EOMI, clear oropharynx. Approx 3 cm laceration 
over R medial eyebrow, sutured, without discharge. Edema over 
nasal bridge with small abrasions, and slight deviation.
Neck: Supple, no cervical or supraclavicular adenopathy
CV: distant heart sounds, RRR, no m/r/g
Lungs: Diminished breath sounds throughout, no wheeze or rhonchi
Abd: soft, NT, ND, no rebound or guarding, no hepatomegaly, +BS
Ext: WWP, no c/c/e, 2+ DPs bilaterally
GU: No foley
Neuro: Slight, fine tremor with arms extended. Alert, 
interactive. Shifts in bed frequently. CN II-XII intact, 
strength ___ in UE and ___ bilaterally.
Skin: No rash. Facial abrasions as above.

Discharge Day Exam
T 98.3, Tmax afebrile, BP 113/85, HR 100, RR 18, sat 100% on RA, 
at least 750cc UOP
Gen: middle aged man seated in bed, alert, cooperative, NAD
HEENT: healing head trauma (facial ecchymoses), sutures over the 
medial R eye w/good wound edge opposition, anicteric, PERRL, MMM
Chest: equal chest rise, CTAB posteriorly, no WOB or cough
Heart: RRR, no m/r/g
Abd: NABS, soft, NTND
Extr: WWP, no edema
Skin: no rashes noted on limited exam
Neuro: speaking easily, no obv neuro deficits
Psych: normal affeqct
 
Pertinent Results:
___ 12:30AM   GLUCOSE-102* UREA N-10 CREAT-0.7 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-21* ANION GAP-15
___ 05:40PM   GLUCOSE-78 UREA N-11 CREAT-0.8 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-19* ANION GAP-19
___ 05:40PM   estGFR-Using this
___ 05:40PM URINE  HOURS-RANDOM
___ 05:40PM URINE  UHOLD-HOLD
___ 05:40PM   WBC-9.6 RBC-3.70* HGB-12.5* HCT-35.2* MCV-95 
MCH-33.8* MCHC-35.5 RDW-13.0 RDWSD-44.8
___ 05:40PM   NEUTS-58.8 ___ MONOS-17.8* EOS-0.1* 
BASOS-0.6 IM ___ AbsNeut-5.66 AbsLymp-2.14 AbsMono-1.71* 
AbsEos-0.01* AbsBaso-0.06
___ 05:40PM   PLT COUNT-198
___ 05:40PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-300 KETONE-40 BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-NEG
___ 05:40PM URINE  RBC-0 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 05:40PM URINE  AMORPH-RARE
___ 05:40PM URINE  MUCOUS-RARE

CT (prelim read) - Non-displaced right posterior table frontal
sinus fracture, fracture of the frontal sinus septum and
air-fluid level in the left frontal sinus. Both nasofrontal 
ducts
are patent. Nasal bone and septum fractures. 

EKG ___: Sinus tachycardia at 117, normal axis, nl 
intervals (QTc 474), no TWI or ST segment changes, no pathologic 
Q waves

Labs at ___: 
WBC 13.2, Hb 15.1, plts 269
Na 137, K 3.9, Cl 95, HCO3 10, BUN 12, Cr 1.0, Glucose 155
CK 65
TnT <0.01
Mg 2.3
EtOH <10

 
Brief Hospital Course:
This is a ___ with anxiety, depression, EtOH dependence, 27 pack 
history and recent diagnosis of stage IIaRUL NSLCA who presented 
with syncope in setting or alcohol relapse with facial 
fractures.

On the day of discharge, the patient felt ok.  A bit of 
headache, improved with Tylenol and Motrin.  We discussed his 
plan of care and the fact that he was medically ready to go.  He 
agreed with discharge home.  We reviewed his medications and the 
follow-up plan.  He stated he did not need any prescriptions.

# Syncope: Likely related to alcohol ingestion vs orthostasis 
from hypovolemia or EtOH intoxication/withdrawal. No events on 
tele to suggest cardiogenic event.  No concern for neurogenic or 
other etiology of syncope.  Prior to discharge he ambulated 
without difficulty or lightheadedness.

# Facial fractures: Seen by plastics. No indication for surgery. 
No antibiotics necessary. Pain control with Tylenol and Motrin.  
Sutures placed ___ on face, to be removed ___ in 
outpatient setting.

# EtOH abuse: The patient was treated with diazepam for EtOH 
withdrawal with no complications.  He spoke w/SW who documented 
the following:

"Pt reported that fell at ___ and believes that it was ___ 
EtOH abuse. Pt said that had ___ yrs of sobriety and took good 
care of self but relapsed about a yr ago. Pt said that started 
working a lot more and decreased utilizing existing supports, 
incl AA. Pt said that has pos support system and aware of avail 
resources and very interested getting life back on track. Pt 
also expressed worry about upcoming rtx for lung ca. Pt 
appropriately concerned and most likely it affected etoh abuse. 
Pt denied any other substance use.
Pt appeared w/future oriented outlook w/desire to get back on 
caring for self appropriately and maintaining sobriety. Pt said 
that in process of getting a new PCP and will also request 
referral for ind psytx in order to receive adequate support. Pt
declined any substance abuse referrals, as he has adequate 
supports and very knowledgeable about resources. This writer 
offered empathetic listening, emotional support, and talked 
about the importance of utilizing existing supports and 
developing and using effective relapse prevention tech. No 
further SW needs identified at this time."

We discussed that he will get a referral for Psychiatry from a 
new PCP.  He was encouraged to select a new PCP soon to 
establish care.

# Anxiety: The patient indicated that he had a prescription for 
hydroxyzine at home and that he would start to take that 
medication for anxiety.

# Recently diagnosed Stage II lung CA: Follows with Dr. ___ 
___ at ___. He was supposed to start XRT but has been missing 
appointments. Pt encouraged to keep appointments. Dr. ___ 
___ and ___ follow up.

On the day of discharge I spent >30min in discharge day services 
and coordination of care.

________________________
___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 20 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Ibuprofen 400 mg PO Q8H:PRN pain 
4. Multivitamins 1 TAB PO DAILY 
5. Nicotine Patch 14 mg TD DAILY 
6. HydrOXYzine 25 mg PO Q6H:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: alcohol abuse, alcohol withdrawal
small cell lung cancer
frontal sinus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after a fall. You fell in the setting of 
drinking alcohol and needed stitches on your face. You were seen 
by the plastic surgeons and had a non-displaced right posterior 
table frontal sinus fracture, fracture of the frontal sinus 
septum and air-fluid level in the left frontal sinus, as well as 
fractures of the nasal bones and nasal septum. These fractures 
will with time. You were seen by social workers here to help you 
detox from alcohol.  It's important you follow-up with a Primary 
Care provider and get ___ new Psychiatrist.
 
Followup Instructions:
___